data/preprocessed/USPTO_50_suzuki.csv
mech_smi,rxn_idx,step_idx_retro,source,source_db,split
"C1=CC=C(P(C2=CC=CC=C2)C2=CC=CC=C2)C=C1.C1=CC=C(P(C2=CC=CC=C2)C2=CC=CC=C2)C=C1.C1=CC=C(P(C2=CC=CC=C2)C2=CC=CC=C2)C=C1.C1=CC=C([P:2](C2=CC=CC=C2)C2=CC=CC=C2)C=C1.CC(C)(C)OC(=O)N1CCN(C2=CC=CN=C2Cl)CC1.COCCOC.O.O=C([O-])[O-].OB(O)C1=CC=CC=C1F.[K+].[K+].[Pd:1]|(2, 1)",7,6,reaction_19,USPTO_suzuki,train
"C1=CC=C(P(C2=CC=CC=C2)C2=CC=CC=C2)C=C1.C1=CC=C(P(C2=CC=CC=C2)C2=CC=CC=C2)C=C1.C1=CC=C([P+](C2=CC=CC=C2)(C2=CC=CC=C2)[Pd-:2])C=C1.C1=CC=C([P:1](C2=CC=CC=C2)C2=CC=CC=C2)C=C1.CC(C)(C)OC(=O)N1CCN(C2=CC=CN=C2Cl)CC1.COCCOC.O.O=C([O-])[O-].OB(O)C1=CC=CC=C1F.[K+].[K+]|(1, 2)",7,5,reaction_19,USPTO_suzuki,train
"C1=CC=C(P(C2=CC=CC=C2)C2=CC=CC=C2)C=C1.C1=CC=C(P(C2=CC=CC=C2)C2=CC=CC=C2)C=C1.C1=CC=C([P+](C2=CC=CC=C2)(C2=CC=CC=C2)[Pd-2:1][P+](C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)C=C1.CC(C)(C)OC(=O)N1CCN(C2=CC=CN=[C:2]2[Cl:3])CC1.COCCOC.O.O=C([O-])[O-].OB(O)C1=CC=CC=C1F.[K+].[K+]|(1, 2);((2, 3), 1)",7,4,reaction_19,USPTO_suzuki,train
"C1=CC=C(P(C2=CC=CC=C2)C2=CC=CC=C2)C=C1.C1=CC=C(P(C2=CC=CC=C2)C2=CC=CC=C2)C=C1.CC(C)(C)OC(=O)N1CCN(C2=CC=CN=[C]2[Pd-2:1]([P+](C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)([P+](C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)[Cl:2])CC1.COCCOC.O.O=C([O-])[O-:3].OB(O)C1=CC=CC=C1F.[K+:4].[K+]|(3, 1);((1, 2), 4)",7,3,reaction_19,USPTO_suzuki,train
"C1=CC=C(P(C2=CC=CC=C2)C2=CC=CC=C2)C=C1.C1=CC=C(P(C2=CC=CC=C2)C2=CC=CC=C2)C=C1.CC(C)(C)OC(=O)N1CCN(C2=CC=CN=[C]2[Pd-2:1]([O]C(=O)[O-])([P+](C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)[P+](C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)CC1.COCCOC.O.O[B:2](O)[C:3]1=CC=CC=C1F.[Cl][K].[K+]|(1, 3);((3, 2), 1)",7,2,reaction_19,USPTO_suzuki,train
"C1=CC=C(P(C2=CC=CC=C2)C2=CC=CC=C2)C=C1.C1=CC=C(P(C2=CC=CC=C2)C2=CC=CC=C2)C=C1.CC(C)(C)OC(=O)N1CCN(C2=CC=CN=[C]2[Pd-2:1]([C]2=CC=CC=C2F)([P+](C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)([P+](C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)([O:2]C(=O)[O-])[B:3](O)O)CC1.COCCOC.O.[Cl][K].[K+]|((1, 2), 3);((3, 1), 1)",7,1,reaction_19,USPTO_suzuki,train
"C1=CC=C(P(C2=CC=CC=C2)C2=CC=CC=C2)C=C1.C1=CC=C(P(C2=CC=CC=C2)C2=CC=CC=C2)C=C1.CC(C)(C)OC(=O)N1CCN(C2=CC=CN=[C:3]2[Pd-2:1]([P+](C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)([P+](C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)[C:2]2=CC=CC=C2F)CC1.COCCOC.O.O=C([O-])OB(O)O.[Cl][K].[K+]|((1, 3), 2);((2, 1), 1)",7,0,reaction_19,USPTO_suzuki,train
"C1=CC=C(P(C2=CC=CC=C2)C2=CC=CC=C2)C=C1.C1=CC=C(P(C2=CC=CC=C2)C2=CC=CC=C2)C=C1.C1=CC=C(P(C2=CC=CC=C2)C2=CC=CC=C2)C=C1.C1=CC=C([P:2](C2=CC=CC=C2)C2=CC=CC=C2)C=C1.CC1=CC(C)=C2OC(NC3=CC=C(B4OC(C)(C)C(C)(C)O4)C=C3)=NC2=C1.CN1CC(N2N=C(I)C3=C(N)N=CN=C32)C1.COCCOC.O.O=C([O-])[O-].[Na+].[Na+].[Pd:1]|(2, 1)",13,6,reaction_29,USPTO_suzuki,train
"C1=CC=C(P(C2=CC=CC=C2)C2=CC=CC=C2)C=C1.C1=CC=C(P(C2=CC=CC=C2)C2=CC=CC=C2)C=C1.C1=CC=C([P+](C2=CC=CC=C2)(C2=CC=CC=C2)[Pd-:1])C=C1.C1=CC=C([P:2](C2=CC=CC=C2)C2=CC=CC=C2)C=C1.CC1=CC(C)=C2OC(NC3=CC=C(B4OC(C)(C)C(C)(C)O4)C=C3)=NC2=C1.CN1CC(N2N=C(I)C3=C(N)N=CN=C32)C1.COCCOC.O.O=C([O-])[O-].[Na+].[Na+]|(2, 1)",13,5,reaction_29,USPTO_suzuki,train
"C1=CC=C(P(C2=CC=CC=C2)C2=CC=CC=C2)C=C1.C1=CC=C(P(C2=CC=CC=C2)C2=CC=CC=C2)C=C1.C1=CC=C([P+](C2=CC=CC=C2)(C2=CC=CC=C2)[Pd-2:2][P+](C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)C=C1.CC1=CC(C)=C2OC(NC3=CC=C(B4OC(C)(C)C(C)(C)O4)C=C3)=NC2=C1.CN1CC(N2N=[C:3]([I:1])C3=C(N)N=CN=C32)C1.COCCOC.O.O=C([O-])[O-].[Na+].[Na+]|(2, 3);((3, 1), 2)",13,4,reaction_29,USPTO_suzuki,train
"C1=CC=C(P(C2=CC=CC=C2)C2=CC=CC=C2)C=C1.C1=CC=C(P(C2=CC=CC=C2)C2=CC=CC=C2)C=C1.CC1=CC(C)=C2OC(NC3=CC=C(B4OC(C)(C)C(C)(C)O4)C=C3)=NC2=C1.CN1CC(N2N=[C]([Pd-2:1]([P+](C3=CC=CC=C3)(C3=CC=CC=C3)C3=CC=CC=C3)([P+](C3=CC=CC=C3)(C3=CC=CC=C3)C3=CC=CC=C3)[I:4])C3=C(N)N=CN=C32)C1.COCCOC.O.O=C([O-])[O-:2].[Na+:3].[Na+]|(2, 1);((1, 4), 3)",13,3,reaction_29,USPTO_suzuki,train
"C1=CC=C(P(C2=CC=CC=C2)C2=CC=CC=C2)C=C1.C1=CC=C(P(C2=CC=CC=C2)C2=CC=CC=C2)C=C1.CC1=CC(C)=C2OC(NC3=CC=[C:2]([B:3]4OC(C)(C)C(C)(C)O4)C=C3)=NC2=C1.CN1CC(N2N=[C]([Pd-2:1]([O]C(=O)[O-])([P+](C3=CC=CC=C3)(C3=CC=CC=C3)C3=CC=CC=C3)[P+](C3=CC=CC=C3)(C3=CC=CC=C3)C3=CC=CC=C3)C3=C(N)N=CN=C32)C1.COCCOC.O.[Na+].[Na][I]|(1, 2);((2, 3), 1)",13,2,reaction_29,USPTO_suzuki,train
"C1=CC=C(P(C2=CC=CC=C2)C2=CC=CC=C2)C=C1.C1=CC=C(P(C2=CC=CC=C2)C2=CC=CC=C2)C=C1.CC1=CC(C)=C2OC(NC3=CC=[C]([Pd-2:2]([C]4=NN(C5CN(C)C5)C5=NC=NC(N)=C54)([P+](C4=CC=CC=C4)(C4=CC=CC=C4)C4=CC=CC=C4)([P+](C4=CC=CC=C4)(C4=CC=CC=C4)C4=CC=CC=C4)([B:1]4OC(C)(C)C(C)(C)O4)[O:3]C(=O)[O-])C=C3)=NC2=C1.COCCOC.O.[Na+].[Na][I]|((2, 3), 1);((1, 2), 2)",13,1,reaction_29,USPTO_suzuki,train
"C1=CC=C(P(C2=CC=CC=C2)C2=CC=CC=C2)C=C1.C1=CC=C(P(C2=CC=CC=C2)C2=CC=CC=C2)C=C1.CC1(C)OB(OC(=O)[O-])OC1(C)C.CC1=CC(C)=C2OC(NC3=CC=[C:1]([Pd-2:2]([P+](C4=CC=CC=C4)(C4=CC=CC=C4)C4=CC=CC=C4)([P+](C4=CC=CC=C4)(C4=CC=CC=C4)C4=CC=CC=C4)[C:3]4=NN(C5CN(C)C5)C5=NC=NC(N)=C54)C=C3)=NC2=C1.COCCOC.O.[Na+].[Na][I]|((2, 1), 3);((3, 2), 2)",13,0,reaction_29,USPTO_suzuki,train
